### PR TITLE
Add Erdős Problem 632 ((a,b)-choosability under scaling), link the formal proof

### LINKED ISSUE #6359: Erdős Problem 632
### What is the Erdős problem?

https://www.erdosproblems.com/632

A graph is $(a,b)$-choosable if for any assignment of a list of $a$ colours to each of its vertices there is a subset of $b$ colours from each list such that the subsets of adjacent vertices are disjoint. If $G$ is $(a,b)$-choosable then $G$ is $(am,bm)$-choosable for every integer $m\geq 1$.

Status: disproved (Dvořák–Hu–Sereni [DHS19]: a $(4,1)$-choosable graph which is not $(8,2)$-choosable). A formal proof exists in plby/lean-proofs (`Erdos632.not_erdos_632`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6359.

### What changed
Adds `FormalConjectures/ErdosProblems/632.lean` with `IsChoosable G a b` (`(a, b)`-choosability, with lists of natural numbers as in `753.lean`):
- `erdos_632` (`research solved`, `answer(False)`): `(a,b)`-choosable does not imply `(am, bm)`-choosable (Dvořák–Hu–Sereni [DHS19]).
- `variants.dvorak_hu_sereni`: a finite graph which is `(4,1)`-choosable but not `(8,2)`-choosable.

Both linked to plby/lean-proofs `Erdos632.not_erdos_632` / `erdos_632_counterexample` (Codex and GPT-5.6 Sol; 6 Mathlib-only files).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos632.not_erdos_632` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms (plby quantifies over arbitrary colour palettes; the bridge shows the `ℕ`-list version is equivalent for finite graphs by encoding the finitely many colours in `ℕ`):

<details>
<summary>Bridge</summary>

```lean
open Finset

namespace Bridge632

variable {V : Type} [Fintype V] (G : SimpleGraph V) {a b : ℕ}

omit [Fintype V] in
/-- plby's palette-universal notion specialises to lists of natural numbers. -/
lemma isChoosable_of (h : Erdos632Plby.IsABChoosable.{0, 0} G a b) :
    Erdos632.IsChoosable G a b := by
  intro L hL
  obtain ⟨φ, hφ⟩ := h ℕ L hL
  exact ⟨φ, fun v => hφ.2 v, fun u v huv => hφ.1 huv⟩

/-- Conversely, lists over an arbitrary palette can be encoded in `ℕ`. -/
lemma isABChoosable_of (h : Erdos632.IsChoosable G a b) :
    Erdos632Plby.IsABChoosable.{0, 0} G a b := by
  intro Color _ L hL
  classical
  set S : Finset Color := univ.biUnion L with hS
  let enc : Color → ℕ := fun c => if hc : c ∈ S then (S.equivFin ⟨c, hc⟩ : ℕ) else 0
  have enc_inj : Set.InjOn enc (S : Set Color) := by
    intro x hx y hy hxy
    rw [Finset.mem_coe] at hx hy
    simp only [enc, dif_pos hx, dif_pos hy] at hxy
    exact congrArg Subtype.val (S.equivFin.injective (Fin.ext hxy))
  have hLS : ∀ v, (L v : Set Color) ⊆ S := fun v c hc =>
    Finset.mem_coe.2 (Finset.mem_biUnion.2 ⟨v, mem_univ _, hc⟩)
  let L' : V → Finset ℕ := fun v => (L v).image enc
  have hL' : ∀ v, (L' v).card = a := fun v => by
    rw [Finset.card_image_of_injOn (enc_inj.mono (hLS v)), hL v]
  obtain ⟨φ', hφ'sub, hφ'disj⟩ := h L' hL'
  refine ⟨fun v => (L v).filter fun c => enc c ∈ φ' v, ?_, fun v => ⟨Finset.filter_subset _ _, ?_⟩⟩
  · intro u v huv
    rw [Finset.disjoint_left]
    intro c hcu hcv
    rw [Finset.mem_filter] at hcu hcv
    exact Finset.disjoint_left.1 (hφ'disj u v huv) hcu.2 hcv.2
  · have hsub := (hφ'sub v).1
    have himg : ((L v).filter fun c => enc c ∈ φ' v).image enc = φ' v := by
      ext n
      constructor
      · intro hn
        obtain ⟨c, hc, rfl⟩ := Finset.mem_image.1 hn
        exact (Finset.mem_filter.1 hc).2
      · intro hn
        obtain ⟨c, hc, rfl⟩ := Finset.mem_image.1 (hsub hn)
        exact Finset.mem_image.2 ⟨c, Finset.mem_filter.2 ⟨hc, hn⟩, rfl⟩
    rw [← (hφ'sub v).2, ← himg, Finset.card_image_of_injOn]
    exact enc_inj.mono fun c hc => hLS v (Finset.mem_filter.1 hc).1

theorem erdos_632_bridge : type_of% Erdos632.erdos_632 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  apply Erdos632Plby.not_erdos_632
  intro V _ G a b m hb hba hm hab
  exact isABChoosable_of G (h V G a b m hb hba hm (isChoosable_of G hab))

theorem dvorak_hu_sereni : type_of% Erdos632.erdos_632.variants.dvorak_hu_sereni :=
  ⟨_, inferInstance, Erdos632Plby.finalGraph,
    isChoosable_of _ Erdos632Plby.erdos_632_counterexample.1,
    fun h => Erdos632Plby.erdos_632_counterexample.2 (isABChoosable_of _ h)⟩

#print axioms Erdos632Plby.not_erdos_632
#print axioms erdos_632_bridge
#print axioms dvorak_hu_sereni

end Bridge632
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«632»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/632.lean [hunk 1]
```diff
@@ -0,0 +1,69 @@
...
+
+namespace Erdos632
+
+/-- A graph is $(a,b)$-choosable if for any assignment of a list of $a$ colours to each of its
+vertices there is a subset of $b$ colours from each list such that the subsets of adjacent
+vertices are disjoint. -/
+def IsChoosable {V : Type*} (G : SimpleGraph V) (a b : ℕ) : Prop :=
+  ∀ L : V → Finset ℕ, (∀ v, (L v).card = a) →
+    ∃ φ : V → Finset ℕ, (∀ v, φ v ⊆ L v ∧ (φ v).card = b) ∧
+      ∀ u v, G.Adj u v → Disjoint (φ u) (φ v)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/632.lean:41]: IsChoosable generalises 753.lean's IsKChoosable; choosability now ad hoc across 632/753/799, suggest Coloring/Choosability.lean
